US05702887
reacting 3-hydroxy-2-naphthoic acid and aniline to produce 3-anilino-2-naphthoic acid;

reactant | 3-hydroxy-2-naphthoic acid | OC=1C(=CC2=CC=CC=C2C1)C(=O)O | C11H8O3
reactant | aniline | NC1=CC=CC=C1 | C6H7N
product | 3-anilino-2-naphthoic acid | N(C1=CC=CC=C1)C=1C(=CC2=CC=CC=C2C1)C(=O)O | C17H13NO2
